US08071581B2
Step 1: Fluoro-quinolin-6-yl-acetonitrile
A solution of quinolin-6-yl-acetonitrile (1.06 g, 6.3 mmol) in tetrahydrofuran (40 mL) was cooled to −78° C. to which tert-butyl lithium (0.8 M in pentane, 7.6 mmol, 7.9 mL) was added in a dropwise fashion over 10 minutes. After the addition was complete the mixture was stirred at −78° C. for 30 min before a solution of N-fluorodi(benzenesulfonyl)-amine (1.5 eq., 9.45 mmol, 3.0 g) in tetrahydrofuran (10 mL) was added. The reaction mixture was stirred for 2 hours at −78° C. before water was added followed by aqueous NaHCO3. The mixture was extracted with dichloromethane (3×80 mL), dried (Na2SO4) and concentrated in vacuo onto silica gel and purified via flash column chromatography (SiO2, hexane:ethyl acetate 100/0-50/50) to return the title compound as a red solid (520 mg, 2.8 mmol, 44%). 1H NMR 500 MHz (DMSO-d6) δ 6.05 (1H, d), 7.66 (1H, dd), 7.95 (1H, dd), 8.19 (1H, d), 8.32 (1H, t), 8.55 (1H, d), 9.03 (1H, dd); MS (m/z) 187 [M+H+]+.

reactant | quinolin-6-yl-acetonitrile | 6.3 mmol, 1.06 g | N1=CC=CC2=CC(=CC=C12)CC#N | C11H8N2
reactant | tert-butyl lithium | 7.6 mmol, 0.8 M, 7.9 mL | C(C)(C)(C)[Li]
reactant | N-fluorodi(benzenesulfonyl)-amine | 9.45 mmol, 3.0 g, 1.5 eq. | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Fluoro-quinolin-6-yl-acetonitrile | 2.8 mmol, 520 mg, 44% | FC(C#N)C=1C=C2C=CC=NC2=CC1 | C11H7FN2
